US07189851B2
Ethyl(9aS)-4-{4-[(2,3-dihydro-1H-inden-1-ylamino)carbonyl]-2-furyl}-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate
5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-3-furoic acid (0.100 g, 0.209 mmol) was dissolved in CH2Cl2. 1-aminoindane (0.037 mL, 0.313 mmol) was added followed by EDCI (0. 048 g, 0.251 mmol) and HOBt (0.034 g, 0.251 mmol). After 14 h of stirring at ambient temperature the reaction mixture was poured onto 5% HCl solution and extracted with CH2Cl2. The organics were washed with sat'd NaHCO3, brine and then dried (Na2SO4), filtered and concentrated to a brown residue. Chromatography on silica gel using 4:1 EtOAc:Hexanes eluted the product to provide the title compound upon concentration as a white solid (0.062 g, 0.105 mmol, 50% yield): 1H NMR (CDCl3, 400 MHz) δ 8.12 (s, 1H), 8.11 (d, J=9.5 Hz, 1H), 7.32 (m, 1H), 7.25–7.15 (m, 5H), 6.96 (t, J=8.6 Hz, 2H), 6.32 (m, 1H), 5.69 (dd, J=15.5, 7.7 Hz, 1H), 4.65 (dd, J=10.4, 6.2 Hz, 1H), 4.37 (dd, J=14.2, 7.0), 3.73–3.63 (m, 1H), 3.44–3.38 (m, 1H), 3.17–3.01 (m, 5H), 2.92–2.83 (m, 1H), 2.68–2.60 (m, 1H), 2.48–2.40 (m,1H), 2.37–2.25 (m, 2H), 1.96–1.86 (m, 1H), 1.38–1.30 (m, 1H), 1.27 (t, J=7.1 Hz, 3H); ESMS m/z 594 (M+H)+, 592 (M−H)+; Anal. Calcd. For C35H32FN3O5.½H2O: C, 69.75; H, 5.52; N, 6.97; found: C, 69.58; H, 5.43; N, 7.05.

reactant | 5-{(9aS)-3-(ethoxycarbonyl)-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl}-3-furoic acid | 0.209 mmol, 0.100 g | C(C)OC(=O)C1=C(C2=C([C@@H]3CCCN3C2=O)N=C1CCC1=CC=C(C=C1)F)C1=CC(=CO1)C(=O)O | C26H23FN2O6
reactant | 1-aminoindane | 0.313 mmol, 0.037 mL | NC1CCC2=CC=CC=C12 | C9H11N
reactant | EDCI | 0.251 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.251 mmol, 0.034 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Ethyl(9aS)-4-{4-[(2,3-dihydro-1H-inden-1-ylamino)carbonyl]-2-furyl}-2-[2-(4-fluorophenyl)ethyl]-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | C1(CCC2=CC=CC=C12)NC(=O)C=1C=C(OC1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCC2=CC=C(C=C2)F)C(=O)OCC | C35H32FN3O5
